US06204274B1
1-N-Glycidyl-4-fluoro-indole
Epibromohydrin (0.64 ml, 7.5 mmole) was added to a stirred solution of 4-fluoroindole (1.0 g, 7.4 mmole) and sodium hydride (0.32 g, 8.1 mmole) in anhydrous DMF (20 ml), and the mixture was heated at 60° C. under nitrogen for 15 hours. Water (100 ml) was added and the product extracted into CH2Cl2 (3×25 ml). The combined organics were washed with water (25 ml), brine (25 ml) and dried over anhydrous sodium sulfate. Filtration and concentration in vacuo gave the crude product as a yellow colored oil (1.34 g). This was purified by flash silica gel chromatography (30% ethyl acetate in hexane) to afford the titled product as a light oil (1.27 g, 90% yield).

reactant | Epibromohydrin | 7.5 mmole, 0.64 ml | C(Br)C1CO1 | C3H5BrO
reactant | 4-fluoroindole | 7.4 mmole, 1.0 g | FC1=C2C=CNC2=CC=C1 | C8H6FN
reactant | sodium hydride | 8.1 mmole, 0.32 g | [H-].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-N-Glycidyl-4-fluoro-indole | C(C1CO1)N1C=CC2=C(C=CC=C12)F | C11H10FNO
